US06103910
b) (R)-1-[4-[(R)-2-Carboxy-pyrrolidin-1-yl]-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid
A solution of 256 mg (0.5 mmol) (R)-1-[4-[(R)-2-benzyloxycarbonyl-pyrrolidin -1-yl]-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid benzyl ester in 5 ml ethanol as stirred with 13 mg 10% Palladium on carbon under 1 atm of hydrogen for 16 h at room temperature. After filtration to remove the catalyst, concentration in vacuo afforded 170 mg (100%) of the title compound (R)-1- [4-[(R)-2-carboxy-pyrrolidin-1-yl]-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid as a colorless viscous oil. MS m/e (%): 313 (M+H)+, 100).

reactant | (R)-1-[4-[(R)-2-benzyloxycarbonyl-pyrrolidin -1-yl]-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.5 mmol, 256 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 13 mg | [Pd] | Pd
product | (R)-1-[4-[(R)-2-Carboxy-pyrrolidin-1-yl]-4-oxo-butyryl]-pyrrolidine-2-carboxylic acid | 170 mg, 100% | C(=O)(O)[C@@H]1N(CCC1)C(CCC(=O)N1[C@H](CCC1)C(=O)O)=O | C14H20N2O6
